Generic Single-Ended OpAmp Slew Rate Testbench

* ============================================================
* Standard DUT interface:
*
* .subckt DUT VINP VINN VOUT VDD VSS IBIAS
*
* Measurements:
*
*   Rising Slew Rate
*   Falling Slew Rate
*
* Method:
*
*   DUT is configured as a unity-gain follower.
*
*   SR_rise = 0.8 * VOUT_SWING / t_10_90
*
*   SR_fall = 0.8 * VOUT_SWING / t_90_10
*
* ============================================================


* ============================================================
* PDK / DUT
* ============================================================

.lib "{{PDK_PATH}}" {{CORNER}}

.include "{{DUT_PATH}}"


* ============================================================
* Temperature
* ============================================================

.temp {{TEMP}}


* ============================================================
* Power Supply
* ============================================================

VDD_SRC VDD 0 DC {{VDD}}

VSS_SRC VSS 0 DC {{VSS}}


* ============================================================
* Bias Current
* ============================================================

IBIAS_SRC VDD IBIAS DC {{IBIAS}}


* ============================================================
* Large-Signal Step Input
*
* PULSE:
*
*   VIN_LOW       low input voltage
*   VIN_HIGH      high input voltage
*   PULSE_DELAY   first rising-edge delay
*   INPUT_TR      input rise time
*   INPUT_TF      input fall time
*   PULSE_WIDTH   high-level duration
*   PULSE_PERIOD  period
*
* INPUT_TR and INPUT_TF must be much shorter than the
* expected op-amp slew transition.
* ============================================================

VIN_SRC IN 0 PULSE(
+ {{VIN_LOW}}
+ {{VIN_HIGH}}
+ {{PULSE_DELAY}}
+ {{INPUT_TR}}
+ {{INPUT_TF}}
+ {{PULSE_WIDTH}}
+ {{PULSE_PERIOD}}
+ )


* ============================================================
* DUT
*
* Unity-gain follower:
*
*   VINP = IN
*   VINN = OUT
* ============================================================

XDUT
+ IN
+ OUT
+ OUT
+ VDD
+ VSS
+ IBIAS
+ DUT


* ============================================================
* Load
* ============================================================

VLOAD_REF LOAD_REF 0 DC {{LOAD_REF}}

RLOAD OUT LOAD_REF {{RL}}

CLOAD OUT LOAD_REF {{CL}}


* ============================================================
* Transient Analysis
*
* TRAN_MAX_STEP should be sufficiently small to accurately
* resolve the slew transition.
* ============================================================

.tran {{TRAN_STEP}} {{TRAN_STOP}} 0 {{TRAN_MAX_STEP}}


* ============================================================
* Control
* ============================================================

.control

run

set wr_singlescale
set wr_vecnames

option numdgt=15


* ============================================================
* Determine Actual Settled Output Levels
*
* Using output levels rather than assuming:
*
*   VOUT_LOW  = VIN_LOW
*   VOUT_HIGH = VIN_HIGH
*
* makes the measurement more robust against DC offset
* and finite closed-loop error.
* ============================================================

meas tran vout_low
+ AVG v(OUT)
+ FROM={{LOW_AVG_START}}
+ TO={{LOW_AVG_STOP}}

meas tran vout_high
+ AVG v(OUT)
+ FROM={{HIGH_AVG_START}}
+ TO={{HIGH_AVG_STOP}}


* ============================================================
* Actual Output Swing
* ============================================================

let vout_swing = vout_high - vout_low


* ============================================================
* 10% / 90% Thresholds
* ============================================================

let vout_10 = vout_low + 0.1 * vout_swing

let vout_90 = vout_low + 0.9 * vout_swing


* ============================================================
* Rising Transition
*
* Measure output from 10% to 90%.
* ============================================================

meas tran rise_10_90
+ TRIG v(OUT)
+ VAL=vout_10
+ TD={{RISE_SEARCH_START}}
+ RISE=1
+ TARG v(OUT)
+ VAL=vout_90
+ RISE=1


* ============================================================
* Falling Transition
*
* Measure output from 90% to 10%.
* ============================================================

meas tran fall_90_10
+ TRIG v(OUT)
+ VAL=vout_90
+ TD={{FALL_SEARCH_START}}
+ FALL=1
+ TARG v(OUT)
+ VAL=vout_10
+ FALL=1


* ============================================================
* Slew Rate
*
* 10% -> 90% corresponds to 80% of output swing.
*
* Time returned by ngspice is in seconds.
*
* Divide by 1e6 to convert:
*
*   V/s -> V/us
* ============================================================

let slew_delta_v = 0.8 * vout_swing

let slew_rise_v_us = (
+ slew_delta_v
+ / rise_10_90
+ / 1e6
+ )

let slew_fall_v_us = (
+ slew_delta_v
+ / fall_90_10
+ / 1e6
+ )


* ============================================================
* Output
* ============================================================

echo ========================================
echo SLEW RATE
echo ========================================

print vout_low
print vout_high

print rise_10_90
print fall_90_10

print slew_rise_v_us
print slew_fall_v_us


* ============================================================
* Save Full Transient Response
* ============================================================

wrdata "{{SLEW_OUTPUT_PATH}}" v(IN) v(OUT)


quit

.endc


.end